US07662826B2
Synthesis of 2-phenyl-7-chloro-pyrazolo-[1,5-a]-pyrimidine-5-carboxylic acid ethyl ester
This compound was synthesized from 7-oxo-2-phenyl-4,7-dihydro-pyrazolo-[1,5-a]-pyrimidine-5-carboxylic acid ethyl ester, according to the process for synthesizing 7-chloropyrazolo-[1,5-a]-pyrimidine-5-carboxylic acid ethyl ester. mp: 135-137° C.

reactant | 7-oxo-2-phenyl-4,7-dihydro-pyrazolo-[1,5-a]-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC=2N(C(C1)=O)N=C(C2)C2=CC=CC=C2 | C15H13N3O3
reactant | 7-chloropyrazolo-[1,5-a]-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC=2N(C(=C1)Cl)N=CC2 | C9H8ClN3O2
product | 2-phenyl-7-chloro-pyrazolo-[1,5-a]-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC=2N(C(=C1)Cl)N=C(C2)C2=CC=CC=C2 | C15H12ClN3O2
